US07608639B2
3-{4-[3-(2-Bromo-4-trifluoromethyl-phenoxy)-phenoxy]-2-methyl-phenyl}-propionic acid methyl ester
A mixture of 3-[4-(3-hydroxy-phenoxy)-2-methyl-phenyl]-propionic acid methyl ester (8.18 g, 28.6 mmol), 3-bromo-4-fluorobenzotrifluoride (6.80 g, 28.0 mmol) and 325 mesh potassium carbonate (4.64 g, 33.68 mmol) in dry DMSO (80 mL) is heated to 100° C. and stirred 6 hours under N2. The reaction is cooled and acidified with 1 N HCl. The mixture is diluted with water and extracted with Et2O. The organic layer is dried (Na2SO4, and the solvent is removed in vacuo to afford crude product that is absorbed on silica gel and purified by flash chromatography using 15/1 hexanes/ethyl acetate to afford 11.74 g (81%) of the titled compound. Rf=0.76 (9/1 hexanes/EtOAc). 1H NMR (400 MHz, CDCl3); MS (ES+) m/z mass calcd for C24H20O4F3Br 509, found 526 and 528 (M+NH4, 100%).

reactant | 3-[4-(3-hydroxy-phenoxy)-2-methyl-phenyl]-propionic acid methyl ester | 28.6 mmol, 8.18 g | COC(CCC1=C(C=C(C=C1)OC1=CC(=CC=C1)O)C)=O | C17H18O4
reactant | 3-bromo-4-fluorobenzotrifluoride | 28.0 mmol, 6.80 g | BrC=1C=C(C=CC1F)C(F)(F)F | C7H3BrF4
reactant | potassium carbonate | 33.68 mmol, 4.64 g | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | 1 N | Cl | ClH
solvent | DMSO | 80 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 3-{4-[3-(2-Bromo-4-trifluoromethyl-phenoxy)-phenoxy]-2-methyl-phenyl}-propionic acid methyl ester | 11.74 g, 81% | COC(CCC1=C(C=C(C=C1)OC1=CC(=CC=C1)OC1=C(C=C(C=C1)C(F)(F)F)Br)C)=O | C24H20BrF3O4
